### PR TITLE
[Merged by Bors] - feat(NumberTheory/Chebyshev): prove relationship between psi and theta 

### PR DESCRIPTION
**Pull request by ajirving**
Proves the relationship between the Chebyshev psi and theta functions; psi is a sum of theta evaluated at powers of x.  This upstreams a result from the PrimeNumberTheoremAnd project.

---

- [x] depends on: #32247

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Chebyshev.lean [hunk 1]
```diff
@@ -128,4 +133,185 @@ theorem theta_le_log4_mul_x {x : ℝ} (hx : 0 ≤ x) : θ x ≤ log 4 * x := by
...
+  _ ≤ 2 * x.sqrt * x.log + log 4 * x := by
+    gcongr
+    · apply le_trans _ <| abs_psi_sub_theta_le_sqrt_mul_log hx
+      apply le_abs.mpr
+      left
+      rfl
+    · exact theta_le_log4_mul_x (by linarith)
+  _ = _ := by ring
+
+/- Chebyshev's bound `ψ x ≤ c x` with an explicit constnat.
```
Comment (erdOne) [inline Mathlib/NumberTheory/Chebyshev.lean]:
```suggestion
/- Chebyshev's bound `ψ x ≤ c x` with an explicit constant.
```

File: Mathlib/NumberTheory/Chebyshev.lean [hunk 2]
```diff
@@ -128,4 +133,185 @@ theorem theta_le_log4_mul_x {x : ℝ} (hx : 0 ≤ x) : θ x ≤ log 4 * x := by
...
 
+/-!
+# Relating `ψ` and `θ`
+
+We isolate the contributions of different prime powers to `ψ` and use this to show that `ψ` and `θ`
+are close.
+-/
+
+theorem psi_eq_sum_theta {x : ℝ} (hx : 0 ≤ x) :
+    ψ x = ∑ n ∈ Icc 1 ⌊log x / log 2⌋₊, θ (x ^ ((1 : ℝ) / n)) := by
```
Comment (erdOne) [inline Mathlib/NumberTheory/Chebyshev.lean]: I think you should first prove a general lemma telling you how to switch from $$\sum_{p^k \le n}$$ to $$\sum_k \sum_{p \le n^{1/k}}$$, and then try to apply to this.

Comment (ajirving) [reply Mathlib/NumberTheory/Chebyshev.lean]: Good idea, I've done that.

**Comment by ajirving** [comment]
-awaiting-author

File: Mathlib/NumberTheory/Chebyshev.lean [hunk 3]
```diff
@@ -128,4 +133,182 @@ theorem theta_le_log4_mul_x {x : ℝ} (hx : 0 ≤ x) : θ x ≤ log 4 * x := by
...
+      simp only [mem_filter, mem_product, mem_Icc, mem_Ioc] at h
+      have k_ne : k ≠ 0 := by linarith
+      refine ⟨⟨pow_pos h.1.2.1.1 _, le_floor ?_⟩, ?_⟩
+      · push_cast
+        trans (x ^ ((k : ℝ)⁻¹)) ^ k
+        · gcongr
+          trans ↑⌊x ^ (k : ℝ)⁻¹⌋₊
+          · exact mod_cast h.2
+          · exact floor_le <| rpow_nonneg hx _
+        · exact rpow_inv_natCast_pow hx k_ne |>.le
```
Comment (erdOne) [inline Mathlib/NumberTheory/Chebyshev.lean]:
```suggestion
    · simp +contextual only [mem_filter, mem_product, mem_Icc, mem_Ioc, and_imp, Prod.forall,
        Nat.le_floor_iff, hx, rpow_nonneg, Nat.one_le_iff_ne_zero, ← Nat.pos_iff_ne_zero, cast_pow]
      exact fun k p hk0 hk hp0 hpx hp hpxk ↦ ⟨⟨pow_pos hp0 _, (pow_le_pow_left₀ (cast_nonneg _)
        hpxk _).trans_eq (rpow_inv_natCast_pow hx hk0.ne')⟩, p, k, hp.prime, hk0, rfl⟩
```

File: Mathlib/NumberTheory/Chebyshev.lean [hunk 4]
```diff
@@ -128,4 +133,173 @@ theorem theta_le_log4_mul_x {x : ℝ} (hx : 0 ≤ x) : θ x ≤ log 4 * x := by
...
+          apply hp.nat_prime.two_le
+      · refine ⟨hp.nat_prime.pos, ?_⟩
+        grw [← hn.1.2, ← hpk]
+        exact le_pow hk
+      · apply le_floor
+        rw [← rpow_rpow_inv (cast_nonneg p) (cast_ne_zero.mpr hk.ne.symm)]
+        apply rpow_le_rpow (by bound) _ (by bound)
+        rw_mod_cast [hpk]
+        exact le_floor_iff hx |>.mp hn.1.2
+    · simp
```
Comment (erdOne) [inline Mathlib/NumberTheory/Chebyshev.lean]:
```suggestion
  · refine (sum_bij (i := fun ⟨k, p⟩ _ ↦ p ^ k) ?_ ?_ ?_ ?_).symm
    · simp +contextual [hx, rpow_nonneg, le_floor_iff, ← Nat.pos_iff_ne_zero, Prime.isPrimePow,
        one_le_iff_ne_zero, le_rpow_inv_iff_of_pos, isPrimePow_pow_iff, Nat.prime_iff]
    · simp +contextual only [hx, rpow_nonneg, le_floor_iff, mem_filter, mem_product, mem_Icc,
        one_le_iff_ne_zero, Nat.pos_iff_ne_zero, mem_Ioc, and_imp, Prod.forall, Prod.mk.injEq]
      intro k₁ p₁ hk₁ _ _ _ hp₁ _ k₂ p₂ hk₂ _ _ _ hp₂ _ H
      exact (Nat.Prime.pow_inj' hp₁ hp₂ hk₁ hk₂ H).symm
    · simp +contextual only [mem_filter, mem_Ioc, hx, le_floor_iff, and_assoc, rpow_nonneg,
        mem_product, mem_Icc, succ_le_iff, exists_prop, Prod.exists, exists_and_left, and_imp]
      rintro b hb₀ hbx ⟨p, k, hp, hk₀, rfl⟩
      rw [cast_pow] at hbx
      refine ⟨k, hk₀, le_floor ?_, p, hp.nat_prime.pos, ?_, hp.nat_prime, ?_, rfl⟩
      · rw [le_div_iff₀ (log_pos (by norm_num)), ← Real.log_pow]
        refine Real.log_le_log (by simp) (.trans ?_ hbx)
        exact pow_le_pow_left₀ (by norm_num) (mod_cast hp.nat_prime.two_le) _
      · exact (le_self_pow₀ (mod_cast hp.nat_prime.one_le) hk₀.ne').trans hbx
      · simp_all [le_rpow_inv_iff_of_pos]
    · simp
```
If you add
```lean
lemma Nat.Prime.pow_inj'
    {p q m n : ℕ} (hp : Prime p) (hq : Prime q) (hm : m ≠ 0) (hn : n ≠ 0)
    (h : p ^ m = q ^ n) : p = q ∧ m = n := by
  obtain (_ | m) := m; · simp_all
  obtain (_ | n) := n; · simp_all
  simpa using hp.pow_inj hq h
```

Comment (ajirving) [reply Mathlib/NumberTheory/Chebyshev.lean]: Thanks for the simplifications. I've added the extra lemma in Chebyshev.lean, maybe I should move it to the same file as Nat.Prime.pow_inj.

File: Mathlib/NumberTheory/Chebyshev.lean [hunk 5]
```diff
@@ -128,4 +133,152 @@ theorem theta_le_log4_mul_x {x : ℝ} (hx : 0 ≤ x) : θ x ≤ log 4 * x := by
...
+-/
+
+lemma Nat.Prime.pow_inj'
+    {p q m n : ℕ} (hp : Nat.Prime p) (hq : Nat.Prime q) (hm : m ≠ 0) (hn : n ≠ 0)
+    (h : p ^ m = q ^ n) : p = q ∧ m = n := by
+  obtain (_ | m) := m; · simp_all
+  obtain (_ | n) := n; · simp_all
+  simpa using hp.pow_inj hq h
+
+/-- A sum over prime powers may be written as a double sum over powers and then primes. -/
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Chebyshev.lean]:
```suggestion
/-- A sum over prime powers may be written as a double sum over exponents and then primes. -/
```

File: Mathlib/NumberTheory/Chebyshev.lean [hunk 6]
```diff
@@ -128,4 +133,152 @@ theorem theta_le_log4_mul_x {x : ℝ} (hx : 0 ≤ x) : θ x ≤ log 4 * x := by
...
+  simp_all
+
+theorem psi_eq_theta_add_sum_theta {x : ℝ} (hx : 2 ≤ x) :
+    ψ x = θ x + ∑ n ∈ Icc 2 ⌊log x / log 2⌋₊, θ (x ^ ((1 : ℝ) / n)) := by
+  rw [psi_eq_sum_theta (by linarith), ← add_sum_Ioc_eq_sum_Icc]
+  · congr
+    simp
+  · apply le_floor
+    apply le_div_iff₀ (by positivity)|>.mpr
+    simp
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Chebyshev.lean]: Please squeeze this simp
```suggestion
    simp only [cast_one, one_mul]
```

File: Mathlib/NumberTheory/Chebyshev.lean [hunk 7]
```diff
@@ -128,4 +133,152 @@ theorem theta_le_log4_mul_x {x : ℝ} (hx : 0 ≤ x) : θ x ≤ log 4 * x := by
...
+
+We isolate the contributions of different prime powers to `ψ` and use this to show that `ψ` and `θ`
+are close.
+-/
+
+lemma Nat.Prime.pow_inj'
+    {p q m n : ℕ} (hp : Nat.Prime p) (hq : Nat.Prime q) (hm : m ≠ 0) (hn : n ≠ 0)
+    (h : p ^ m = q ^ n) : p = q ∧ m = n := by
+  obtain (_ | m) := m; · simp_all
+  obtain (_ | n) := n; · simp_all
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Chebyshev.lean]:
```suggestion
  obtain ⟨m, rfl⟩ := exists_eq_add_one_of_ne_zero hm
  obtain ⟨n, rfl⟩ := exists_eq_add_one_of_ne_zero hn
```

File: Mathlib/NumberTheory/Chebyshev.lean [hunk 8]
```diff
@@ -128,4 +133,152 @@ theorem theta_le_log4_mul_x {x : ℝ} (hx : 0 ≤ x) : θ x ≤ log 4 * x := by
...
   exact floor_le hx
 
+/-!
+## Relating `ψ` and `θ`
+
+We isolate the contributions of different prime powers to `ψ` and use this to show that `ψ` and `θ`
+are close.
+-/
+
+lemma Nat.Prime.pow_inj'
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Chebyshev.lean]: Please move this lemma to the same file that proves `Nat.Prime.pow_inj`.

File: Mathlib/NumberTheory/Chebyshev.lean (hunk 6 above)
Comment (jcommelin) [inline Mathlib/NumberTheory/Chebyshev.lean]: Alternative
```suggestion
  · rw [le_floor_iff' one_ne_zero, le_div_iff₀ (by positivity), cast_one, one_mul]
```

File: Mathlib/NumberTheory/Chebyshev.lean [hunk 9]
```diff
@@ -128,4 +133,152 @@ theorem theta_le_log4_mul_x {x : ℝ} (hx : 0 ≤ x) : θ x ≤ log 4 * x := by
...
+    simp
+  · apply le_floor
+    apply le_div_iff₀ (by positivity)|>.mpr
+    simp
+    gcongr
+
+theorem theta_le_psi (x : ℝ) : θ x ≤ ψ x := by
+  by_cases h : x < 2
+  · rw [theta_eq_zero_of_lt_two h, psi_eq_zero_of_lt_two h]
+  push_neg at h
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Chebyshev.lean]:
```suggestion
  by_cases! h : x < 2
  · rw [theta_eq_zero_of_lt_two h, psi_eq_zero_of_lt_two h]
```

File: Mathlib/NumberTheory/Chebyshev.lean [hunk 10]
```diff
@@ -128,4 +133,152 @@ theorem theta_le_log4_mul_x {x : ℝ} (hx : 0 ≤ x) : θ x ≤ log 4 * x := by
...
+  exact sum_nonneg fun _ _ ↦ theta_nonneg _
+
+--Note that a more careful argument could remove the log x in the following with a worse constant.
+/-- `|ψ x - θ x| ≤ c x √ x` with an explicit constant c. -/
+theorem abs_psi_sub_theta_le_sqrt_mul_log {x : ℝ} (hx : 1 ≤ x) :
+    |ψ x - θ x| ≤ 2 * x.sqrt * x.log := by
+  by_cases hx : x < 2
+  · rw [psi_eq_zero_of_lt_two hx, theta_eq_zero_of_lt_two hx, sub_zero, abs_zero]
+    bound
+  push_neg at hx
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Chebyshev.lean]:
```suggestion
  by_cases! hx : x < 2
  · rw [psi_eq_zero_of_lt_two hx, theta_eq_zero_of_lt_two hx, sub_zero, abs_zero]
    bound
```

File: Mathlib/NumberTheory/Chebyshev.lean [hunk 11]
```diff
@@ -128,4 +133,152 @@ theorem theta_le_log4_mul_x {x : ℝ} (hx : 0 ≤ x) : θ x ≤ log 4 * x := by
...
+  _ = _ := by ring
+
+/- Chebyshev's bound `ψ x ≤ c x` with an explicit constant.
+Note that `Chebyshev.psi_le` gives a sharper bound with a better main term. -/
+theorem psi_le_const_mul_self {x : ℝ} (hx : 0 ≤ x) :
+    ψ x ≤ (log 4 + 4) * x := by
+  by_cases hx : x < 1
+  · rw [psi_eq_zero_of_lt_two (by linarith)]
+    bound
+  push_neg at hx
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Chebyshev.lean]:
```suggestion
  by_cases! hx : x < 1
  · rw [psi_eq_zero_of_lt_two (by linarith)]
    bound
```

File: Mathlib/NumberTheory/Chebyshev.lean [hunk 12]
```diff
@@ -128,4 +133,140 @@ theorem theta_le_log4_mul_x {x : ℝ} (hx : 0 ≤ x) : θ x ≤ log 4 * x := by
...
+  congr 1
+  ext p
+  simp only [mem_filter, mem_Ioc]
+  refine ⟨fun _ ↦ (by simp_all), fun h ↦ ?_⟩
+  simp_all only [mem_Icc, one_div, true_and, and_true]
+  grw [h.1.2, floor_le_floor]
+  apply rpow_le_self_of_one_le _ (by bound)
+  have := one_le_floor_iff _|>.mp <| le_trans (one_le_cast.mp h.2.one_le) h.1.2
+  contrapose! this
+  apply rpow_lt_one hx this (by bound)
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Chebyshev.lean]: Please indent, to restore the symmetry. `trans` creates two goals, and neither of them is the "main goal" with the other being a "side goal".
